US07504401B2
(6-benzyloxy-pyridin-3-yl)-[3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-amine. To a tube purged with nitrogen containing (6-benzyloxy-pyridin-3-yl)-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine (78 mg, 0.158 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole (63 mg, 0.158 mmol) and chloro(di-2-norbornylphosphino)(2′dimethylamino-1,1′-biphenyl-2-yl)palladium (II) (9.0 mg, 0.0158 mmol) in dioxane (2 mL) was added 2M aqueous K3PO4 (0.16 mL, 0.32 mmol). The tube was sealed and heated in a microwave reactor at 120° C. for an hour. The crude mixture was loaded directly to Celite®, and purified by chromatography to afford the -[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridin-2-ol as a white solid (62 mg, 57.1%).

reactant | (6-benzyloxy-pyridin-3-yl)-[3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-amine | C(C1=CC=CC=C1)OC1=CC=C(C=N1)NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)OCC1=CC=C(C=C1)OC | C43H49N3O3Si
reactant | (6-benzyloxy-pyridin-3-yl)-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-amine | 0.158 mmol, 78 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)NC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)Br | C26H23BrN2O3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole | 0.158 mmol, 63 mg | CC1(OB(OC1(C)C)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C | C23H38BNO2Si
reactant | K3PO4 | 0.32 mmol, 2M, 0.16 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | chloro(di-2-norbornylphosphino)(2′dimethylamino-1,1′-biphenyl-2-yl)palladium (II) | 0.0158 mmol, 9.0 mg | Cl[Pd-](C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)P(C1C2CCC(C1)C2)C2C1CCC(C2)C1
product | [3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridin-2-ol | 62 mg, 57.1% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)NC=1C(=NC=CC1)O | C19H15N3O2
